US04111935
Sodium 3-nitrobenzenesulphonate (2.96 g) and 6-(2-hydroxyphenyl)-4,5-dihydro-3(2H)pyridazinone (2.5 g) were added to a stirred solution of sodium hydroxide (1.31 g) in water (25 ml) and the mixture was heated under reflux for 2.5 hours. Acetic acid was added to the warm stirred solution until there was no further precipitation and the mixture was pH 9. The mixture was filtered to give 6-(2-hydroxyphenyl)-3(2H)-pyridazinone (2.05 g) m.p. 287°-292°. A sample recrystallised from 2-methoxyethanol had m.p. 295°-299°.

reactant | Sodium 3-nitrobenzenesulphonate | 2.96 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+]
reactant | 6-(2-hydroxyphenyl)-4,5-dihydro-3(2H)pyridazinone | 2.5 g | OC1=C(C=CC=C1)C=1CCC(NN1)=O | C10H10N2O2
reactant | sodium hydroxide | 1.31 g | [OH-].[Na+]
reactant | Acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 25 ml | O | H2O
product | 6-(2-hydroxyphenyl)-3(2H)-pyridazinone | 2.05 g | OC1=C(C=CC=C1)C=1C=CC(NN1)=O | C10H8N2O2
